US05026859
PREPARATION OF DIMETHYL 5-(1,3-DIOXEPAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE
A solution of 5-formyl-2,3-pyridinedicarboxylic acid, dimethyl ester, 5-dimethyl acetal (1.3 g, 0.0048 mol), a catalytic amount of p-toluenesulfonic acid, 1,4-butanediol and toluene is heated at reflux temperature for 2 hours and 30 minutes. The reaction mixture is cooled to room temperature, made basic with sodium bicarbonate and concentrated in vacuo to give a liquid. The liquid is partitioned between methylene chloride and 5% sodium bicarbonate solution. The layers are separated and the aqueous layer is extracted with methylene chloride, the combined methylene chloride extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give an oil. The oil is chromatographed using silica gel and hexanes/ethyl acetate (2:1 to 1:1) as eluant to give the title compound as a clear oil (0.88 g, 62%), identified by IR and NMR spectral analyses.

reactant | 5-formyl-2,3-pyridinedicarboxylic acid, dimethyl ester | C(=O)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C10H9NO5
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | DIMETHYL 5-(1,3-DIOXEPAN-2-YL)-2,3-PYRIDINEDICARBOXYLATE | 0.88 g, 62% | O1C(OCCCC1)C=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C14H17NO6
